US04472310
A solution of 5.0 g of 3β-hydroxy-15β,16β-methylene-5-androsten-17-one in 50 ml of pyridine was combined under ice cooling with 5 ml of benzoyl chloride and then stirred for 17 hours at room temperature. After the addition of 10 ml of water, the mixture was stirred for another hour; then the reaction solution was diluted with methylene chloride and washed with sodium carbonate solution and water. After drying and evaporation, the residue was triturated with diisopropyl ether and vacuum-filtered, thus obtaining 6.4 g of 3β-benzoyloxy-15β,16β-methylene-5-androsten-17-one, mp 250°-258° C.

reactant | 3β-hydroxy-15β,16β-methylene-5-androsten-17-one | 5.0 g | O[C@@H]1CC2=CC[C@H]3[C@@H]4[C@H]5[C@@H](C([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)C5 | C20H28O2
reactant | benzoyl chloride | 5 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | 10 ml | O | H2O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3β-benzoyloxy-15β,16β-methylene-5-androsten-17-one | 6.4 g | C(C1=CC=CC=C1)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4[C@H]5[C@@H](C([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)C5 | C27H32O3
